US07288541B2
A mixture of 5.1 g (22.2 mmol) of 2-amino-4-(trifluoromethyl) benzenethiol hydrochloride, 5.5 mL (33.3 mmol) of triethylorthoformate, and 2 drops of sulfuric acid was slowly heated to 180° C. over 1 h. The ethanol formed was allowed to escape via a short path distillation still. The reaction mixture was cooled to room temperature and the residue was dissolved in ethyl acetate, washed with saturated sodium bicarbonate, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel chromatography with ethyl acetate:hexane (1:9) to afford 3.8 g (86%) of 5-(trifluoromethyl)-1,3-benzothiazole as a solid. 1H-NMR (400 MHz, DMSO-d6): δ 9.58 (s, 1H), 8.44–8.42 (m, 2H), 7.80 (d, 1H).

reactant | 2-amino-4-(trifluoromethyl) benzenethiol hydrochloride | 22.2 mmol, 5.1 g | Cl.NC1=C(C=CC(=C1)C(F)(F)F)S
reactant | triethylorthoformate | 33.3 mmol, 5.5 mL | C(C)OC(OCC)OCC | C7H16O3
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | C(C)O | C2H6O
product | 5-(trifluoromethyl)-1,3-benzothiazole | 3.8 g, 86% | FC(C=1C=CC2=C(N=CS2)C1)(F)F | C8H4F3NS
